US05578627
A solution of 5.58 g of trityl chloride in 6 ml of N,N-dimethylformamide is added to a solution of 4.85 g of 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole and 2.02 g of triethylamine in 12 ml of N,N-dimethylformamide at -40° to -30° C., and they are subjected to reaction at the same temperature for 30 minutes. Subsequently, ice water and ethyl acetate are added to the reaction mixture and the pH is adjusted to 2 with 2N hydrochloric acid. The organic layer is separated, and the separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is crystallized from n-hexane and the crystals are collected by filtration, to obtain 7.28 g of colorless, crystalline 5-chloro-3-(2-tritylamino-3-hydroxypropoxy)-1,2-benzoisoxazole having a melting point of 142°-144° C.

reactant | trityl chloride | 5.58 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | 4.85 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C10H11ClN2O3
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-3-(2-tritylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | ClC=1C=CC2=C(C(=NO2)OCC(CO)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C29H25ClN2O3
